US07902252B2
2.20. Synthesis of 4-benzyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (17)
The title compound was synthesized from methyl 4-benzyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (25 mg, 0.098 mmol) and lithium hydroxide monohydrate (25 mg, 0.39 mmol) according to General Procedure 7. The crude product was dried onto Silica gel and was purified by flash chromatography (0-80% EtOAc/Heptane) to give 4-benzyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (17) as a light red solid (19 mg, 81%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.05-2.14 (m, 1H), 2.48-2.58 (m, 1H), 2.59-2.66 (m, 2H), 2.74 (dd, J=13.32, 7.81, 1H), 2.79 (dd, J=13.32, 6.98, 1H), 3.22-3.30 (m, 1H), 6.29 (s, 1H), 7.15-7.21 (m, 3H), 7.24-7.29 (m, 2H); LCMS-MS (ESI+) 240.2 (M−H); HPLC (UV=100%).

reactant | methyl 4-benzyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.098 mmol, 25 mg | C(C1=CC=CC=C1)C1CCC=2NC(=CC21)C(=O)OC | C16H17NO2
reactant | lithium hydroxide monohydrate | 0.39 mmol, 25 mg | O.[OH-].[Li+]
product | 4-benzyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 19 mg, 81% | C(C1=CC=CC=C1)C1CCC=2NC(=CC21)C(=O)O | C15H15NO2
